US07977344B2
2-{[2-(Ethyloxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
To a stirred solution of potassium t.butoxide (9.3 g, 82.8 mmol) in 1-ethoxy-2-ethanol (70 ml) was added 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (7 g, 27.6 mmol). The mixture was heated to 80-90° C. for 2 h. Then most of the solvent was removed by evaporation under reduced pressure. The residue was partitioned between water and dichloromethane. The dichloromethane layer was separated, concentrated to give a light brown solid, which was washed with petroleum ether, dried in vacuo (7.8 g, 92%).

reactant | potassium | [K] | K
reactant | butoxide | 82.8 mmol, 9.3 g | [O-]CCCC
reactant | 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 27.6 mmol, 7 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12ClN5O
reactant | 1-ethoxy-2-ethanol | 70 ml | C(C)OCCO | C4H10O2
product | 2-{[2-(Ethyloxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | C(C)OCCOC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C14H21N5O3
